US04489003
A mixture of 3.0 g (8.2 mmol) of 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole, 1.59 g (11.5 mmol) of powdered potassium carbonate, 1.43 g (11.5 mmol) of resorcinol monomethyl ether and 20 ml of dry dimethylformamide is stirred at room temperature for 2 days, then poured into 60 ml of water and extracted three times with methylene chloride. The organic extracts are washed once with saturated sodium chloride solution, dried over magnesium sulphate and evaporated. The residue obtained is chromatographed on silica gel while eluting with ethyl acetate/n-hexane (3:1) and subsequently crystallized from ethyl acetate. There is obtained m-methoxyphenyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 184°-185°.

reactant | 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | 8.2 mmol, 3.0 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
reactant | potassium carbonate | 11.5 mmol, 1.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | resorcinol monomethyl ether | 11.5 mmol, 1.43 g | COC1=CC(O)=CC=C1 | C7H8O2
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
product | m-methoxyphenyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3=CC(=CC=C3)OC)CCC1)=O | C22H18ClN3O4
